US08212041B2
6-(difluoro(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline
A mixture of methyl 2,2-difluoro-2-(quinolin-6-yl)acetate (0.50 g, 2.1 mmol), 1-(6-phenylpyridazin-3-yl)hydrazine (0.39 g, 2.1 mmol) and p-toluenesulfonic acid monohydrate (0.20 g, 1.1 mmol) in 5 mL of dioxane was heated at 150° C. for 1 hour in a microwave tube in the microwave. The mixture was diluted with 70 mL of EtOAc and 40 mL of satd. NaHCO3 solution. The organic phase was separated and washed with 40 mL of brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc to 15% MeOH/EtOAc) to give yellow solid as desired product 6-(difluoro(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline. MS (ESI pos. ion) m/z: 374.1 (M+H). Calc'd Exact Mass for C21H13F2N5: 373.1.

reactant | methyl 2,2-difluoro-2-(quinolin-6-yl)acetate | 2.1 mmol, 0.50 g | FC(C(=O)OC)(C=1C=C2C=CC=NC2=CC1)F | C12H9F2NO2
reactant | 1-(6-phenylpyridazin-3-yl)hydrazine | 2.1 mmol, 0.39 g | C1(=CC=CC=C1)C1=CC=C(N=N1)NN | C10H10N4
reactant | p-toluenesulfonic acid monohydrate | 1.1 mmol, 0.20 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 6-(difluoro(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline | FC(C=1C=C2C=CC=NC2=CC1)(C1=NN=C2N1N=C(C=C2)C2=CC=CC=C2)F | C21H13F2N5
